US07317033B2
a) N-(2-Amino-3-chlorophenyl)-N′-(4-methyl-3-thienyl)thiourea
is obtained analogously to the reaction described in example 1 b) from 4-methyl-3-thienyl isothiocyanate and 3-chloro-1,2-diaminobenzene (prepared by catalytic hydrogenation of 3-chloro-2-nitroaniline using Pt on activated carbon under atmospheric pressure at room temperature). Crystalline solid, m.p. 298-305° C.,

reactant | 4-methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
reactant | 3-chloro-1,2-diaminobenzene | ClC=1C(=C(C=CC1)N)N | C6H7ClN2
product | N-(2-Amino-3-chlorophenyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=C(C=CC=C1Cl)NC(=S)NC1=CSC=C1C | C12H12ClN3S2
